US06300352B1
b) (2S)-2-(4-Bromophenoxy)-3-methyl-1-butanol
Solid sodium borohydride (11.8 g) was added with cooling in three portions over 3 days to a stirred solution of (2S)-2-(4-bromophenoxy)-3-methylbutanoic acid, methyl ester (27.7 g) in ethanol (400 ml). The reaction was concentrated under reduced pressure and the residue partitioned between 2M hydrochloric acid (400 ml) and ether. The organic layer was dried over anhydrous magnesium sulfate filtered and concentrated under reduced pressure. The residue was purified by column chromatography over silica gel eluting with dichloromethane:isohexane (1:1) to give the sub-title compound as an oil (13.7 g).

reactant | sodium borohydride | 11.8 g | [BH4-].[Na+]
reactant | (2S)-2-(4-bromophenoxy)-3-methylbutanoic acid, methyl ester | 27.7 g | BrC1=CC=C(O[C@H](C(=O)OC)C(C)C)C=C1 | C12H15BrO3
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | (2S)-2-(4-Bromophenoxy)-3-methyl-1-butanol | 13.7 g | BrC1=CC=C(O[C@H](CO)C(C)C)C=C1 | C11H15BrO2
